US03951987
0.2 G. of 4'-{2-[6-(p-fluorophenyl)-dihydro-6-methyl-2H-1,3-oxazin-3(4H)-yl]ethoxy}acetanilide hydrochloride and 2 ml. of conc. hydrochloric acid are heated on the steam bath for 4 hours. The excess hydrochloric acid is evaporated under reduced pressure and the residue brought to crystallization with ethanol-acetic acid ethyl ester. The p-{2-[4-(p-fluorophenyl)-3,6-dihydro-1(2H)-pyridyl]ethoxy}aniline dihydrochloride hydrate obtained melts at 180°-183°C. after recrystallization from ethanol-acetic acid ethyl ester.

reactant | 4'-{2-[6-(p-fluorophenyl)-dihydro-6-methyl-2H-1,3-oxazin-3(4H)-yl]ethoxy}acetanilide hydrochloride | Cl.FC1=CC=C(C=C1)C1(CCN(CO1)CCOC1=CC=C(NC(C)=O)C=C1)C
reactant | hydrochloric acid | Cl | ClH
product | p-{2-[4-(p-fluorophenyl)-3,6-dihydro-1(2H)-pyridyl]ethoxy}aniline dihydrochloride hydrate | O.Cl.Cl.FC1=CC=C(C=C1)C=1CCN(CC1)CCOC1=CC=C(N)C=C1 | InChI=1S/C19H21FN2O.2ClH.H2O/c20-17-3-1-15(2-4-17)16-9-11-22(12-10-16)13-14-23-19-7-5-18(21)6-8-19;;;/h1-9H,10-14,21H2;2*1H;1H2
